US05468742
3) Cis-8-benzoyl-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]-nonane
124 g (0.265 mol) of trans-1-benzoyl-3-bromo-4-(2-tosyloxyethoxy)-pyrrolidine are re-fluxed overnight with 86 g (0.8 mol) of benzylamine in 1.5 l of xylene. The benzylamine salts are suctioned off and the filtrate concentrated.

reactant | trans-1-benzoyl-3-bromo-4-(2-tosyloxyethoxy)-pyrrolidine | 0.265 mol, 124 g | C(C1=CC=CC=C1)(=O)N1C[C@H]([C@@H](C1)OCCOS(=O)(=O)C1=CC=C(C)C=C1)Br | C20H22BrNO5S
reactant | benzylamine | 0.8 mol, 86 g | C(C1=CC=CC=C1)N | C7H9N
solvent | xylene | 1.5 l | C=1(C(=CC=CC1)C)C | C8H10
product | Cis-8-benzoyl-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]-nonane | C(C1=CC=CC=C1)(=O)N1C[C@@H]2N(CCO[C@@H]2C1)CC1=CC=CC=C1 | C20H22N2O2
